US07674912B2
4-Amino-benzoic acid (100 mmol) was dissolved in DMF (50 mL) and N-bromosuccinimide (100 mmol) was added. Stirred at ambient temperature for 18 h, the reaction mixture was then poured into water (100 mL). The product was removed by filtration, washed with water and dried in vacuo to give 4-amino-3-bromo-benzoic acid.

reactant | 4-Amino-benzoic acid | 100 mmol | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | N-bromosuccinimide | 100 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 100 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-amino-3-bromo-benzoic acid | Yield: 70% | NC1=C(C=C(C(=O)O)C=C1)Br | C7H6BrNO2
